US07932272B2
2-(Ethoxymethyl-amino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide
To a solution of the resulting 2-amino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide (602 mg, 1.85 mmol) in ethanol (40 mL) were added 5,5-dimethylhydantoin (260 mg, 2.04 mmol), 37% formic acid aqueous solution (3.00 mL, 23.6 mmol), and the solution was stirred under reflux for 1 hour. Water was added to the reaction mixture, which was then extracted with ethyl acetate, the organic layer was sequentially washed with water and brine, dried over anhydrous sodium sulfate, and then, evaporated in vacuo. The resulting residue was purified by silica gel chromatography (hexane-ethyl acetate), and the title compound (430 mg, 1.12 mmol, 61%) was obtained.

reactant | 2-amino-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 1.85 mmol, 602 mg | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C17H15N3O2S
reactant | 5,5-dimethylhydantoin | 2.04 mmol, 260 mg | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | formic acid | 23.6 mmol, 3.00 mL | C(=O)O | CH2O2
reactant | Water | O | H2O
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(Ethoxymethyl-amino)-N-(5-phenoxy-thiophen-2-ylmethyl)-nicotinamide | 1.12 mmol, 430 mg, 61% | C(C)OCNC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC=N1 | C20H21N3O3S
